US08012956B2
To a solution of methyl 4-cyano-5-iodo-2-methylbenzoate (500 mg, 1.66 mmol) in 1,4-dioxane (25 mL) was added 9,9-dimethyl-4,5-(bis(diphenylphosphino)xanthene (96 mg, 0.166 mmol), tris(dibenzylideneacetone)-dipalladium (76 mg, 0.083 mmol), cesium carbonate (1.08 g, 3.32 mmol) and (R)-butan-2-amine (506 μL, 4.98 mmol). The reaction mixture was heated to 95° C. and stirred for 16 h, at which time it was cooled to room temperature. The heterogeneous mixture was filtered through a bed of celite, and the filter cake rinsed with ethyl acetate. The filtrate was concentrated, and the residue was purified by flash chromatography (100% hexanes to 5% ethyl acetate in hexanes) to afford (R)-methyl 5-(sec-butylamino)-4-cyano-2-methylbenzoate (300 mg, 73%) as a bright yellow oil. MS (EI) for C14H18N2O2: 247 (MH+).

reactant | methyl 4-cyano-5-iodo-2-methylbenzoate | 1.66 mmol, 500 mg | C(#N)C1=CC(=C(C(=O)OC)C=C1I)C | C10H8INO2
reactant | bis(diphenylphosphino)xanthene | 0.166 mmol, 96 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=C(C=2CC3=CC=CC=C3OC2C=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C37H28OP2
reactant | cesium carbonate | 3.32 mmol, 1.08 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (R)-butan-2-amine | 4.98 mmol, 506 μL | C[C@H](CC)N | C4H11N
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)-dipalladium | 0.083 mmol, 76 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (R)-methyl 5-(sec-butylamino)-4-cyano-2-methylbenzoate | 300 mg, 73% | [C@@H](C)(CC)NC=1C(=CC(=C(C(=O)OC)C1)C)C#N | C14H18N2O2
